US06225311B1
To a solution of 1.820 g (6.00 mmol) of of [(4-fluoro-benzenesulfonyl)-methyl-amino]-acetic acid tert-butylester in 25 mL of dimethylformamide was added 5.0 mL (4.0 g, 72.89 mmol) of propargylamine. The mixture was heated to 80° C. and stirred for 48 h. The mixture was partitioned between 400 mL of dichloromethane and 200 mL of 20% aqueous NH4Cl solution. The organic layer was separated, washed with 200 mL of water, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. Silica gel column chromatography of the residue, eluting with 1% MeOH/CH2Cl2, provides 1.067 g (53%) of 2-(methyl{[4-(prop-2-ynylamino)phenyl]sulfonyl}amino)acetic acid, tert-butyl ester as a light brown oil. Electrospray Mass Spec 339.3 (M+H)+

reactant | [(4-fluoro-benzenesulfonyl)-methyl-amino]-acetic acid tert-butylester | C(C)(C)(C)OC(CN(C)S(=O)(=O)C1=CC=C(C=C1)F)=O | C13H18FNO4S
reactant | propargylamine | 72.89 mmol, 5.0 mL, 4.0 g | C(C#C)N | C3H5N
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-(methyl{[4-(prop-2-ynylamino)phenyl]sulfonyl}amino)acetic acid, tert-butyl ester | 1.067 g, 53% | CN(CC(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)NCC#C | C16H22N2O4S
